US07189741B2
C. Preparation of 3-{4-[1-(2-morpholin-4-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 2.4 g (7.5 mmol) of 1-(2-morpholin-4-yl-ethyl)-3-piperidin-4-yl-1H-indole and 1.8 g (7.8 mmol) of 3-bromomethyl-benzoic acid methyl ester. After standard work-up and purification, 0.75 g (22% of yield) of the expected acid were obtained.

reactant | 1-(2-morpholin-4-yl-ethyl)-3-piperidin-4-yl-1H-indole | 7.5 mmol, 2.4 g | N1(CCOCC1)CCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C19H27N3O
reactant | 3-bromomethyl-benzoic acid methyl ester | 7.8 mmol, 1.8 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-{4-[1-(2-morpholin-4-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | N1(CCOCC1)CCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C27H33N3O3
